US04666923
(b) 3-Ethoxycarbonyl-3-methyl-5-nitro-6-(4-pyridinoylamino)-indolin-2-one
A solution of 3.9 g. (0.038 mol) potassium nitrate in 30 ml. concentrated sulphuric acid is added dropwise, while cooling, to a solution of 13 g. (0.038 mol) 3-ethoxycarbonyl-3-methyl-6-(4-pyridinoylamino)-indolin-2-one in 90 ml. concentrated sulphuric acid. The reaction mixture is further stirred for about 1 hour, poured on to ice, adjusted to pH 8 with a concentrated aqueous solution of ammonia, while cooling, and the crystals obtained are filtered off with suction and recrystallised from ethanol/methylen chloride. Yield: 12.81 g. (82% of theory); m.p. 217°-219° C.

reactant | potassium nitrate | 0.038 mol | [N+](=O)([O-])[O-].[K+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 3-ethoxycarbonyl-3-methyl-6-(4-pyridinoylamino)-indolin-2-one | 0.038 mol | C(C)OC(=O)C1(C(NC2=CC(=CC=C12)NC(=O)C1=CC=NC=C1)=O)C | C18H17N3O4
reactant | ammonia | N | H3N
product | 3-Ethoxycarbonyl-3-methyl-5-nitro-6-(4-pyridinoylamino)-indolin-2-one | C(C)OC(=O)C1(C(NC2=CC(=C(C=C12)[N+](=O)[O-])NC(=O)C1=CC=NC=C1)=O)C | C18H16N4O6
